US09351973B2
Step A. 2-chloro-3-iodopyrazolo[1,5-a]pyridine
To a solution of 2-chloro-pyrazolo[1,5-a]pyridine (0.500 g, 3.28 mmol) in acetonitrile (16.4 mL) was added N-iodosuccinimide (0.885 g, 3.93 mmol). The resulting mixture was stirred at room temperature for 2 hours, then concentrated under reduced pressure. The resulting residue was diluted with dichloromethane, washed with saturated aqueous sodium chloride solution, dried over MgSO4, filtered and concentrated under reduced pressure. Purification by flash chromatography on silica gel (0-15% ethyl acetate in hexanes) provided the title compound. LCMS m/z 278.72 [M+H]+, 280.64 [M+2+H]+, 1H NMR (500 MHz, CDCl3) 8.35 (d, J=6.8 Hz, 1 H), 7.38 (d, J=9.0 Hz, 1H), 7.24 (d, J=8.6 Hz, 1 H), 6.84-6.81 (m, 1 H).

reactant | 2-chloro-pyrazolo[1,5-a]pyridine | 3.28 mmol, 0.500 g | ClC1=NN2C(C=CC=C2)=C1 | C7H5ClN2
reactant | N-iodosuccinimide | 3.93 mmol, 0.885 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 16.4 mL | C(C)#N | C2H3N
product | 2-chloro-3-iodopyrazolo[1,5-a]pyridine | ClC1=NN2C(C=CC=C2)=C1I | C7H4ClIN2
